US07390908B2
Route 2a: 2-[3,5-di-(2-chlorobenzyloxy)benzoyl]aminothiazole-5-carboxylic acid
A solution of ethyl 2-[3,5-di-(2-chlorobenzyloxy)benzoyl]aminothiazole-5-carboxylate (158 mg, 0.28 mmol) in THF (2 ml) was treated with sodium hydroxide solution (0.57 ml of 2M, 1.4 mmol), and the reaction stirred at 40-50 deg C., until complete hydrolysis was achieved (with tlc monitoring, approximate reaction time 2 hrs). The resulting solution was cooled, diluted with water (5 ml) and acidified to pH1 using c.HCl. The precipitate thus formed was filtered off, washed (water) and dried to give the title compound as a colourless solid, 130 mg, 1H NMR δ (d6-DMSO): 5.25 (4H, s); 7.0 (1H, s); 7.4 (6H, m); 7.5 (2H, m); 7.6 (2H, m); 8.2 (1H, d).

reactant | ethyl 2-[3,5-di-(2-chlorobenzyloxy)benzoyl]aminothiazole-5-carboxylate | 0.28 mmol, 158 mg | ClC1=C(COC=2C=C(C(=O)NC=3SC(=CN3)C(=O)OCC)C=C(C2)OCC2=C(C=CC=C2)Cl)C=CC=C1 | C27H22Cl2N2O5S
reactant | sodium hydroxide | 1.4 mmol, 2M, 0.57 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 2-[3,5-di-(2-chlorobenzyloxy)benzoyl]aminothiazole-5-carboxylic acid | ClC1=C(COC=2C=C(C(=O)NC=3SC(=CN3)C(=O)O)C=C(C2)OCC2=C(C=CC=C2)Cl)C=CC=C1 | C25H18Cl2N2O5S
